US07919519B2
1-((6-(5-Benzylbenzofuran-2-yl)-2-methylpyridin-3-yl)methyl)azetidine-3-carboxylic acid
A suspension of 6-(5-benzylbenzofuran-2-yl)-2-methylnicotinaldehyde (160 mg, 489 μmol) and 3-azetidinecarboxylic acid (49.4 mg, 489 μmol) in MeOH (8 mL) and glacial acetic acid (44.0 mg, 733 μmol) was stirred at 24° C. for 1 h, treated with sodium borocyanohydride (15.4 mg, 244 μmol), and stirred for 2 h. The mixture was diluted with 30 mL of 1M HCl in Et2O and evaporated. Purification of the residue by RP-HPLC to give title compound as an off-white solid [hS1P1 EC50=420 nM]. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.72 (s, 2H), 7.55-7.53 (m, 2H), 7.43 (s, 1H), 7.28-7.18 (m, 6H), 4.04 (s, 2H), 3.59 (s, 2H), 3.45-3.23 (m, 8H). MS (ESI) m/z: Calculated: 412.5; Observed: 413.3 (M++1).

reactant | 6-(5-benzylbenzofuran-2-yl)-2-methylnicotinaldehyde | 489 μmol, 160 mg | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=NC(=C(C=O)C=C2)C)C1 | C22H17NO2
reactant | 3-azetidinecarboxylic acid | 489 μmol, 49.4 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic acid | 733 μmol, 44.0 mg | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | MeOH | 8 mL | CO | CH4O
solvent | HCl | 1M, 30 mL | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 1-((6-(5-Benzylbenzofuran-2-yl)-2-methylpyridin-3-yl)methyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=CC=C(C(=N2)C)CN2CC(C2)C(=O)O)C1 | C26H24N2O3
